US06632919B1
N-((7-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycine
To a solution of methyl N-((7-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-tert-butyloxycarbonylaminoethyl)glycinate (0.775 g, 1.79 mmol) in THF (10 mL, LAB-SCAN C2520, dried over molecular seives) was added LiOH (2M, aqueous) (2.0 mL). The resulting solution was stirred at rt for 30 min, additional water was added, and the THF removed in vacuo. The pH of the aqueous solution was adjusted to pH 3.0 and the precipitate collected, and washed (2×10 mL) by filtration, to yield the desired product (424 mg, 56%) as a colorless precipitate (mp 94-95° C.). 1H NMR (DMSO-d6; this compound exist as two rotamers; chemical shifts for the minor rotamer is given in brackets): δ 12.05 (s br, 1H), 7.90 (7.96) (d, 7.9 Hz, 1H), 7.78 (7.71) (s, 1H), 7.11 (d, 7.9 Hz, 1H), 6.90 (6,73) (m, 1H), 3.97 (4.23) (s, 2H), 3.59 (s, 2H), 3.44 (s, 3H), 3.04 (3.15) (m, 2H), 1.37 (1.36) (s, 9H). 13C NMR (DMSO-d6): δ 170.94 (171.22), 170.00 (170.16), 162.6, 159.1, 155.7, 148.8, 136.30 (136.57), 135.90 (136.09), 128.28 (128.62), 118.12, 111.96 (112.00), 77.9, 48.08 (48.29), 47.5, 38.39 (38.05), 33.44 (33.66), 28.3, 24.2. FAB+ HRMS (m/z): 417.1794, calc. C20H25N4O6 417.1774.

reactant | methyl N-((7-methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-tert-butyloxycarbonylaminoethyl)glycinate | 1.79 mmol, 0.775 g | CC1=CC=C2C=C(C(NC2=N1)=O)CC(=O)N(CC(=O)OC)CCNC(=O)OC(C)(C)C | C21H28N4O6
reactant | LiOH | 2M, 2.0 mL | [Li+].[OH-]
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-((7-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetyl)-N-(2-(tert-butyloxycarbonyl)aminoethyl)glycine | 424 mg, 56% | CC1=CC=C2C=C(C(NC2=N1)=O)CC(=O)N(CC(=O)O)CCNC(=O)OC(C)(C)C | C20H26N4O6
